US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-phenoxybenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 4-phenoxybenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.95 (d, J=13 Hz, 2H), 2.11 (s, 1H), 2.31 (d, J=13 Hz, 2H), 2.38 (s, 2H), 3.49 (s, 2H), 3.59 (s, 4H), 4.38 (s, 1H), 7.00-7.09 (m, 4H), 7.17-7.23 (m, 1H), 7.38-7.44 (m, J=8, 8 Hz, 2H), 7.81-7.89 (m, 2H); MS (APCI/NH3) m/z 349 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 4-phenoxybenzoic acid | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-phenoxybenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C22H24N2O2
